Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
RUQ pain
 
Major Surgical or Invasive Procedure:
cholangiogram ___

 
History of Present Illness:
___ with history of cholangiocarcinoma s/p bile resection,
left hepatic hemihepatectomy, hepaticojejunostomy on ___. He
was treated postoperatively with chemo/radiation and has since
been admitted multiple times with cholangitis and has been found
to have a stricture at the hepaticojejunostomy requiring 
multiple
cholangioplasties and a placement of internal/external biliary
drain. This drain was most recently upsized to a ___ catheter 
on
___. He also has had multiple episode of GI bleeding most
recently 

The patient reports waking up this morning at midnight with an
acute onset of RUQ pain right at the tube insertion site after
tossing and turning ___ his bed. He states he was well quite well
prior to today and the pain is sharp, stabbing, constant and
located ___ the RUQ with radiation of the pain "all over." This
prompted him to come to the emergency room for evaluation.

ROS: Patient denies fevers, chills, nausea, vomiting, diarrhea,
change ___ bowel habits, melena, hematochezia, chest pain or
shortness of breath.

 
Past Medical History:
CAD- ___- had intermittent chest pain -> positive MIBI-> 3 
stents placed at ___ (Plavix/ASA discontinued by Cardiologist 
prior to recent admissions at ___ per patient and patient's 
wife.)
___ hypercholesterolemia
HTN
cholangiocarcinoma
.
PSHx
Appendectomy
Past cardiac stents
___ Exploratory laparotomy, left hepatic
lobectomy, bile duct resection, Roux-en-Y hepaticojejunostomy,
bile duct septoplasty, 
___ cholangiogram. 
___ Roux tube removed
 
Social History:
___
Family History:
Mother-died ___ from CHF/dementia 
Father- died ___ lung CA, h/o MI ___ ___ 
Brothers: ___ s/p CABG ___ early ___.

 
Physical Exam:
VS: T 99.0 P 94 BP 130/80 RR 18 O2 98RA
PE:  Gen - A&Ox3
     CV - RRR
     Pulm - CTAB
     Abd - Soft, tenderness to palpation ___ the RUQ, no
rebound/guarding, internal/external drain intact
     Ext - Warm

LABS:

11.1>37.4<254

138|104|17
-----------<152
4.3| 22|0.9

ALT 129
AST 63
AlkP 221
TBil 0.5
Lipase 14

12.0
----<1.0
23.8

RADS: None 

 
Pertinent Results:
___ 06:50AM BLOOD WBC-11.1* RBC-4.27* Hgb-12.8* Hct-37.4* 
MCV-88 MCH-30.0 MCHC-34.2 RDW-15.1 Plt ___
___ 05:41AM BLOOD WBC-4.9 RBC-3.01* Hgb-9.2* Hct-26.7* 
MCV-89 MCH-30.6 MCHC-34.6 RDW-14.9 Plt ___
___ 05:41AM BLOOD Glucose-127* UreaN-10 Creat-0.8 Na-142 
K-3.5 Cl-106 HCO3-25 AnGap-15
___ 06:50AM BLOOD ALT-129* AST-63* AlkPhos-221* TotBili-0.5
___ 05:41AM BLOOD ALT-46* AST-23 AlkPhos-161* TotBili-0.4
___ 05:41AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.9

___ 8:40 am BILE

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST. 

   FLUID CULTURE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 

   ANAEROBIC CULTURE (Final ___: 
      CLOSTRIDIUM PERFRINGENS.    MODERATE GROWTH. 

 
Brief Hospital Course:
He was admitted from the ED to the ___ 1 service under Dr. 
___. Blood, bile and urine were cultured. The PTC was 
opened and placed to gravity drainage. Daptomycin and 
Ceftriaxone were started given past cultures. Overnight, he 
became febrile to 103, desat'd,and became hypotensive. ABG 
showed O2 of 62%.  Fluid bolus and O2 were administered. A chest 
CTA was done and was negative for PE. There were patchy 
opacities throughout the lingula along with more confluent 
opacities ___ the left lower lobe, consistent with left lower 
lobe and lingular pneumonia. Abdominal CT demonstrated mild 
intrahepatic bile duct dilatation. IV Vancomycin was added. 

On ___, a cholangiogram was done noting malpositioned 
internal-external drainage catheter pulled back proximal to the 
hepaticojejunostomy clips with a mildly dilated intrahepatic 
biliary ductal system. A new 10 ___ internal-external biliary 
drainage catheter was placed across the hepaticojejunostomy. 
Post-procedure, vital signs were stable. The PTC was capped and 
he remained afebrile. LFTs further decreased. Blood cultures 
were drawn on ___ and ___. These were not finalized, but 
had no growth to date. 

He felt well and was switched to po Levaquin to complete a 5 day 
course for pneumonia and Flagyl for 7 days for Clostridium 
perfringens isolated ___ the bile. 

He was discharged to home tolerating regular diet and ambulating 
independently. 

 
Medications on Admission:
cymbalta 20mg qd (due to decrease to 10mg ___, gabapentin 
300'', lisinopril 10, zyprexa 2.5mg qhs (weaning off), protonix 
40'', tamsulosin 0.4, lactulose prn, colace prn, senna 1, ativan 
0.5''' prn 
 
Discharge Medications:
1. gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. olanzapine 5 mg Tablet, Rapid Dissolve Sig: 0.5 Tablet, Rapid 
Dissolve PO QHS (once a day (at bedtime)).  
4. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
6. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily) as needed for constipation.  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety.  
11. duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
13. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*5 Tablet(s)* Refills:*0*
14. Flagyl 500 mg Tablet Sig: One (1) Tablet PO three times a 
day: do not drink alcohol while taking this medication.
Disp:*21 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pneumonia
PTC catheter malpositioned, possible cholangitis
bile-clostridium perfringens

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ ___ if you have any of 
the following: temperature of 101 or greater, chills, shortness 
of breath, increased phlegm or chest pain, nausea, vomiting, 
increased abdominal pain, redness or drainage at capped PTC 
insertion site
Change dry gauze dressing daily to capped PTC site
 
Followup Instructions:
___